* c:\fossee\ayush\8t_ram\8t_ram.cir

.lib "" 
.include ""
m4  net-_m4-pad1_ /q_bar net-_m3-pad1_ net-_m3-pad1_ mosfet_n
m3  net-_m3-pad1_ net-_m3-pad2_ /q /q mosfet_n
m6  /q_bar /q net-_m4-pad1_ net-_m4-pad1_ mosfet_n
rwl1  net-_m4-pad1_ net-_rwl1-pad2_ net-_m1-pad1_ net-_m1-pad1_ p3
wwl1  /q net-_u1-pad2_ net-_m1-pad3_ net-_m1-pad3_ n3
m2  /q /q_bar net-_m2-pad3_ /q mosfet_p
m5  net-_m2-pad3_ /q /q_bar /q_bar mosfet_p
m1  net-_m1-pad1_ /q net-_m1-pad3_ net-_m1-pad1_ mosfet_p
* s c m o d e
* u1  net-_m1-pad3_ net-_u1-pad2_ net-_rwl1-pad2_ net-_m3-pad2_ net-_m2-pad3_ /q /q_bar net-_m4-pad1_ port
.tran 4e-00 8e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
